US07678810B2
A 1.02M solution of diisobutylalminium hydride in toluene (23.4 ml) was added dropwise to a solution of 5-propyldihydrofuran-2-one (1.50 g) in toluene (30 ml) over 50 minutes at −70° C. under nitrogen atmosphere, and the mixture was stirred for 1 hour at −70° C. The reaction solution was quenched with methanol (3.0 ml) at −70° C., and then left to room temperature. After adding a 10% aqueous solution of citric acid, this reaction solution was stirred for 5 minutes. Then this solution was extracted with ethyl acetate, and the organic layer was washed with a brine. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated, and then the residue was purified by silica gel column chromatography (hexane:ethyl acetate=90:10→80:20) to yield 5-propyltetrahydrofuran-2-ol (440 mg) as a colorless oil.

reactant | hydride | [H-]
reactant | 5-propyldihydrofuran-2-one | 1.50 g | C(CC)C1CCC(O1)=O | C7H12O2
solvent | toluene | 23.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-propyltetrahydrofuran-2-ol | 440 mg | C(CC)C1CCC(O1)O | C7H14O2
